US06979741B2
4-(Pyridine-3-sulfonyl)-morpholine (25 mmol, 5.7 g) was shaken with platinum (IV) oxide (500 mg) in ethanol (50 mL) at 60° C. under hydrogen at 50 psi for 16 h. Reduction was incomplete so the catalyst was removed by filtration, the solvent evaporated under vacuum and the residue dissolved in a mixture of water (50 mL) and acetic acid (10 mL) with warming. Platinum (IV) oxide (1 g) was added and hydrogenation at 50 psi was continued for a further 70 h at 60° C. The catalyst was removed by filtration and the solvent was evaporated under vacuum to give an orange gum which was redissolved in water and the solution (pH 4-5) was extracted with dichloromethane (×3). The aqueous layer was evaporated to a small volume under vacuum, made strongly basic by the addition of 4 M sodium hydroxide solution, xylenes were added and the solvents were removed under vacuum. The residue was agitated with dichloromethane and anhydrous sodium sulfate, the solids removed by flitration through Celite® and the filtrate evaporated under vacuum to give 4-(piperidine-3-sulfonyl)-morpholine as a waxy orange solid (1.3 g, 22%).

reactant | 4-(Pyridine-3-sulfonyl)-morpholine | 25 mmol, 5.7 g | N1=CC(=CC=C1)S(=O)(=O)N1CCOCC1 | C9H12N2O3S
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | O | H2O
catalyst | platinum (IV) oxide | 500 mg | [Pt](=O)=O
product | 4-(piperidine-3-sulfonyl)-morpholine | 1.3 g, 22% | N1CC(CCC1)S(=O)(=O)N1CCOCC1 | C9H18N2O3S
